US07723330B2
A solution of tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(3-(4-fluorophenyl)-2-oxo-3-aza-bicyclo[3.1.0]hexane-1-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)piperazine-1-carboxylate (100 mg, 0.131 mmol) was heated in TFA (4 mL) for 12 hours. Excess TFA was removed and the residue was purified by flash column chromatography (20% MeOH in CH2Cl2) to afford the product N-(3-fluoro-4-(3-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-(4-fluorophenyl)-2-oxo-3-aza-bicyclo[3.1.0]hexane-1-carboxamide (32 mg, 44.9% yield) as a yellow solid. LRMS (APCI pos) m/e 546.3 (M+1). 1H NMR (DMSO-d6, 400 MHz) δ 12.90 (s, 1H), 10.48 (s, 1H), 8.88 (s, br, 1H), 8.25 (d, 1H), 7.92 (d, 1H), 7.60-7.69 (m, 2H), 7.47-7.53 (m, 2H), 7.22-7.30 (m, 2H), 6.16-6.22 (d, 1H), 4.09-4.17 (m, 1H), 3.77-3.80 (m, 1H), 3.50-3.60 (m, 1H), 3.35-3.40 (m, 1H), 3.22-3.33 (m, 4H), 3.16-3.21 (m, 1H), 2.66-2.74 (m, 1H), 1.80-1.84 (m, 1H), 1.46-1.52 (m, 1H), 1.06-1.12 (m, 1H).

reactant | tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(3-(4-fluorophenyl)-2-oxo-3-aza-bicyclo[3.1.0]hexane-1-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)piperazine-1-carboxylate | 0.131 mmol, 100 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C32C(N(CC2C3)C3=CC=C(C=C3)F)=O)F)N3CCN(CC3)C(=O)OC(C)(C)C)C=C1 | C41H41F2N7O6
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-(4-fluorophenyl)-2-oxo-3-aza-bicyclo[3.1.0]hexane-1-carboxamide | 32 mg, 44.9% yield | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2N2CCNCC2)NC(=O)C21C(N(CC1C2)C2=CC=C(C=C2)F)=O | C28H25F2N7O3
